US07994164B2
(E)-N-(5-((E)-3-Fluoro-6H-dibenzo[b,e]oxepin-11-ylidenemethyl)-1-((3S,4S)-4-hydroxy-1-methyl-pyrrolidin-3-yl)-1,3-dihydro-benzoimidazol-2-ylidene)-urea
To a mixture of trifluoroacetic acid (30 mL) and water (6.0 eq, 100 mmol, 1.81 mL) in an ice bath add (E)-N-(5-((E)-(3-fluorodibenzo[b,e]oxepin-11(6H)-ylidene)methyl)-1-((3S,4S)-4-hydroxy-1-methylpyrrolidin-3-yl)-1H-benzo[d]imidazol-2(3H)-ylidene)cyanamide maleate (16.73 mmol, 10.00 g). Allow the resulting suspension to warm up to room temperature and stir for 2 h. Dilute the solution with ethyl acetate (250 mL), cool the mixture in an ice bath for 30 min, and treat with 5 N sodium hydroxide to pH=11. Wash the organic layer with brine, dry over anhydrous sodium sulfate, and concentrate under reduced pressure. Purify the residue by column chromatography eluting with 2.5 to 5% methanol in ethyl acetate to obtain a white solid. Dry in a vacuum oven at 40° C. overnight to obtain the title compound (6.74 g, 81%). LC-MS m/z 500.2 [M+H]+.

reactant | trifluoroacetic acid | 30 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | water | 100 mmol, 1.81 mL, 6.0 eq | O | H2O
reactant | (E)-N-(5-((E)-(3-fluorodibenzo[b,e]oxepin-11(6H)-ylidene)methyl)-1-((3S,4S)-4-hydroxy-1-methylpyrrolidin-3-yl)-1H-benzo[d]imidazol-2(3H)-ylidene)cyanamide maleate | 16.73 mmol, 10.00 g | C(\C=C/C(=O)O)(=O)O.FC=1C=CC\2=C(OCC3=C(/C2=C\C2=CC4=C(N(\C(\N4)=N\C#N)[C@H]4CN(C[C@@H]4O)C)C=C2)C=CC=C3)C1
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
product | (E)-N-(5-((E)-3-Fluoro-6H-dibenzo[b,e]oxepin-11-ylidenemethyl)-1-((3S,4S)-4-hydroxy-1-methyl-pyrrolidin-3-yl)-1,3-dihydro-benzoimidazol-2-ylidene)-urea | 6.74 g, 81% | FC=1C=CC\2=C(OCC3=C(/C2=C\C2=CC4=C(N(\C(\N4)=N\C(=O)N)[C@H]4CN(C[C@@H]4O)C)C=C2)C=CC=C3)C1 | C28H26FN5O3
